data/mechanisms/records/IMS8-EQ8.3c.json
{"mechanism_id": "IMS8-EQ8.3c", "species": [{"species_id": "butyl_methyl_ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][O+:5][CH3:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propyl_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methoxymethyl_radical", "mapped_smiles": "[CH2:4][O:5][CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["butyl_methyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["propyl_cation", "methoxymethyl_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 2}, {"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 141, "equation": "8.3", "section": "8.2 Product stability -- Charge competition in OE(+.) decompositions: Stevenson's Rule"}, "confidence": 0.85, "curator_note": "Eq 8.3 row 2, first branch (unlabeled arrow). Cleavage of the C-C bond between the propyl group and the O-CH2 carbon, with the charge migrating to the propyl fragment giving C3H7+ (4%) and the neutral methoxymethyl radical .CH2-O-CH3 as complement; printed IE(C3H7.)=8.1 eV. This charge-migration (inductive) channel is minor relative to the alpha-cleavage branch 8.3d that dominates the competition (100%). Book draws 0 arcs (summary equation); the flow is reconstructed as a heterolytic C3-C4 cleavage (both sigma electrons of bond 3-4 to C4, propyl departs as C3H7+) followed by a one-electron shift from the incipient carbanion carbon C4 to the adjacent O5, quenching the oxygen radical cation and leaving the odd electron on the methoxymethyl carbon. LOCALIZATION at the ether oxygen (n-ionization) as in 8.3a/b; the page prints (+.) over the C3H7-CH2 region."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+.", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 88.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_C3H7", "species_id": "propyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 43.0542, "relative_intensity": 0.04, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
